US07432291B2
vii) 1-[2-(4-{2-[2-(E)-(4-Difluoromethoxy-phenyl)-vinyl]-oxazol-4-ylmethoxy}-benzyloxy)-ethyl]-1H-[1,2,3]triazole
23 mg (0.91 mmol) 95% Sodium hydride were given to a solution of 200 mg (0.91 mmol) 4-(2-[1,2,3]triazol-1-yl-ethoxymethyl)-phenol in 5.0 ml DMF and stirred for 15 min. 260 mg (0.91 mmol) 4-chloromethyl-2-[2-(4-difluoromethoxy-phenyl)-vinyl]-oxazole were added and stirring continued at r.t. for 12 h. After addition of 20 ml water the resulting precipitate was collected, washed with water (2×10 ml), methanol/water 1:1 (2×10 ml), a small amount of diethyl ether and dried in vacuo at 40° C. to yield 256 mg (60%) of the product as beige powder.

reactant | Sodium hydride | 0.91 mmol, 23 mg | [H-].[Na+]
reactant | 4-(2-[1,2,3]triazol-1-yl-ethoxymethyl)-phenol | 0.91 mmol, 200 mg | N1(N=NC=C1)CCOCC1=CC=C(C=C1)O | C11H13N3O2
reactant | 4-chloromethyl-2-[2-(4-difluoromethoxy-phenyl)-vinyl]-oxazole | 0.91 mmol, 260 mg | ClCC=1N=C(OC1)C=CC1=CC=C(C=C1)OC(F)F | C13H10ClF2NO2
reactant | water | 20 ml | O | H2O
solvent | DMF | 5.0 ml | CN(C)C=O | C3H7NO
product | 1-[2-(4-{2-[2-(E)-(4-Difluoromethoxy-phenyl)-vinyl]-oxazol-4-ylmethoxy}-benzyloxy)-ethyl]-1H-[1,2,3]triazole | 256 mg, 60% | FC(OC1=CC=C(C=C1)/C=C/C=1OC=C(N1)COC1=CC=C(COCCN2N=NC=C2)C=C1)F | C24H22F2N4O4
